US09062032B2
By using 23 mg of methyl 4-[2-(4-{[(2-{[3-(chloromethyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate and 19 mg of methyl[(1-ethylpropyl)amino]acetate as starting materials, alkylation was performed under the conditions similar to Preparation Example 30, and then hydrolysis was performed under the conditions similar to Example 6, thereby obtaining 6.7 mg of 4-(2-{4-[({2-[(3-{[(carboxymethyl)(pentan-3-yl)amino]methyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl}ethyl)benzoic acid.

reactant | methyl 4-[2-(4-{[(2-{[3-(chloromethyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate | 23 mg | ClCC=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1 | C33H31ClN2O4S
reactant | methyl[(1-ethylpropyl)amino]acetate | 19 mg | COC(CNC(CC)CC)=O | C8H17NO2
product | 4-(2-{4-[({2-[(3-{[(carboxymethyl)(pentan-3-yl)amino]methyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl}ethyl)benzoic acid | 6.7 mg | C(=O)(O)CN(C(CC)CC)CC=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)O)C=C2)CCCC3)C=CC1 | C39H43N3O6S
